US05332745
Sodium (11.5 g, 0.5 mol) was dissolved in ethanol (700 ml) and ethyl 4-phenylacetoacetate added with mechanical stirring. Further ethanol (350 ml) and thiourea (22.8 g, 0.3 mol) were added and the reaction mixture heated under reflux for 24 hours. The reaction mixture was then cooled, poured into water (2 liters) and acidified with concentrated hydrochloric acid to approximately pH5. The resulting precipitate was filtered off, washed with water (3×500 ml) and diethyl ether (2×300 ml) and dried under vacuum to afford 41.5 g 4-hydroxy-6-phenylmethyl-2-mercaptopyrimidine as a beige solid, m.pt., 215°-220° C. with decomposition. M+ found: 218.

reactant | Sodium | 0.5 mol, 11.5 g | [Na] | Na
reactant | ethyl 4-phenylacetoacetate | C1(=CC=CC=C1)CC(CC(=O)OCC)=O | C12H14O3
reactant | thiourea | 0.3 mol, 22.8 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 700 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 2 liters | O | H2O
product | 4-hydroxy-6-phenylmethyl-2-mercaptopyrimidine | 41.5 g | OC1=NC(=NC(=C1)CC1=CC=CC=C1)S | C11H10N2OS
